US04242510
2-(2,3-Dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetic acid (syn isomer, 1.6 g.), dry N,N-dimethylformamide (0.56 ml.), dry ethyl acetate (22.3 ml.) and phosphoryl chloride (0.69 ml.) were treated in a similar manner to that of Example 14 to give an activated acid solution. On the other hand, 7-amino-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (2.0 g.) and trimethylsilylacetamide (5.9 g.) were added to dry ethyl acetate (40 ml.), and stirred at 40° C. for an hour. To the solution was added the activated acid solution at -15° C. and stirred at -10° to -20° C. for 50 minutes. Water (30 ml.) was added to the resultant solution, and the ethyl acetate layer was separated. Water (30 ml.) was added to the ethyl acetate solution and adjusted to pH 7.0 with sodium bicarbonate. The aqueous solution was separated, washed with ethyl acetate and adjusted to pH 2.7 with 10% hydrochloric acid. The precipitates were collected by filtration, washed with water and dried over phosphorus pentoxide under reduced pressure. The product was added to diethyl ether (100 ml.) and stirred. The precipitates were collected by filtration and washed with diethyl ether to give 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetamido]-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2.33 g.).

reactant | 2-(2,3-Dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetic acid | 1.6 g | O1CCSC=C1C(C(=O)O)=NOCCC | C9H13NO4S
reactant | phosphoryl chloride | 0.69 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.0 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O | C10H11N5O3S2
reactant | trimethylsilylacetamide | 5.9 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | Water | 30 ml | O | H2O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 22.3 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.56 ml | CN(C=O)C | C3H7NO
product | 7-[2-(2,3-dihydro-1,4-oxathiin-6-yl)-2-n-propoxyiminoacetamido]-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.33 g | O1CCSC=C1C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O)=NOCCC | C19H22N6O6S3
